US08580957B2
(3S)-3-[(4-Bromophenyl)amino]butanenitrile
(3S)-3-(Phenylamino)butanenitrile (for a preparation see Intermediate 105) (11.3526 g, 70.9 mmol) was taken up in N,N-dimethylformamide (DMF) (200 mL) under nitrogen and cooled in an ice-bath. NBS (12.61 g, 70.9 mmol) was added and the reaction stirred. After 20 min, the reaction was partitioned between EtOAc (1000 mL) and water (500 mL). The organic layer was washed with 2M NaOH×2, water and brine (500 mL each) and then dried with Na2SO4, filtered and concentrated to yield the product as a cream solid (17.3 g).

reactant | (3S)-3-(Phenylamino)butanenitrile | C1(=CC=CC=C1)N[C@H](CC#N)C | C10H12N2
reactant | NBS | 70.9 mmol, 12.61 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | (3S)-3-[(4-Bromophenyl)amino]butanenitrile | 17.3 g | BrC1=CC=C(C=C1)N[C@H](CC#N)C | C10H11BrN2
